US04115396
A reaction solution consisting of 5.66 g. (0.03 mole) 6-chloro-4-nitro-2-picoline-1-oxide and 100 ml. ethanol was saturated with anhydrous ammonia and sealed in a strong bottle. This reaction mixture was heated and maintained at a temperature in the range of 100° to 105° C. for 21 hrs. The bottle and contents were then cooled and the seal was broken. Crystals had formed. The crystals were collected on a filter and washed with a small amount of cold ethanol. Recrystallization from 95% aqueous ethanol yielded 2.06 g. (41% yield) of 6-amino-4-nitro-2-picoline-1-oxide as yellow needles having a melting point at 221° to 222° C. (with decomposition). When a small sample was mixed with ethanolic ferric chloride a blue solution was obtained.

reactant | 6-chloro-4-nitro-2-picoline-1-oxide | 0.03 mole | ClC=1C=C(C=C([N+]1[O-])C)[N+](=O)[O-] | C6H5ClN2O3
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 6-amino-4-nitro-2-picoline-1-oxide | 41% yield | NC=1C=C(C=C([N+]1[O-])C)[N+](=O)[O-] | C6H7N3O3
